US04021444
A mixture of 51 g (0.16 mole) of ethyl 5-(3,4-dimethoxyphenyl)-2-furimidate hydrochloride, 11 g (0.18 mole) of ethylenediamine, and 850 ml of absolute ethanol was refluxed for 5 hrs and then kept overnight at room temperature. The solid was recrystallized from acetic acid, washed with ether, and air dried to yield 33 g (65%) of 2-[5-(3,4-dimethoxyphenyl)-2-furyl]imidazoline hydrochloride. An analytical sample was prepared by recrystallizing a sample from methanol and drying in the vacuum pistol at the temperature of refluxing CHCl3, m.p. 291°-293°.

reactant | ethyl 5-(3,4-dimethoxyphenyl)-2-furimidate hydrochloride | 0.16 mole, 51 g | Cl.COC=1C=C(C=CC1OC)C1=CC=C(O1)C(OCC)=N
reactant | ethylenediamine | 0.18 mole, 11 g | C(CN)N | C2H8N2
solvent | ethanol | 850 ml | C(C)O | C2H6O
product | 2-[5-(3,4-dimethoxyphenyl)-2-furyl]imidazoline hydrochloride | 33 g, 65% | Cl.COC=1C=C(C=CC1OC)C1=CC=C(O1)C=1NCCN1 | InChI=1S/C15H16N2O3.ClH/c1-18-12-4-3-10(9-14(12)19-2)11-5-6-13(20-11)15-16-7-8-17-15;/h3-6,9H,7-8H2,1-2H3,(H,16,17);1H
